2140-10-12 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct stabilized at 32
   - Lactate 0.7
   - Two sets CE flat, third troponin 0.02 (has been this in the past)
   - BP stable overnight
   - Pain improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-10-11**] 09:23 PM
   Morphine Sulfate - [**2140-10-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-12**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 75 (75 - 80) bpm
   BP: 97/60(69) {84/45(58) - 108/73(80)} mmHg
   RR: 19 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     60 mL
                                                                    100 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    450 mL
   Urine:
   450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     60 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: Systolic), displaced  PMI laterally
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: mild TTP bilateral LQ,
   no rebound or guarding
   Extremities:  No edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, MAE
   Labs / Radiology
   120 K/uL
   11.5 g/dL
   79 mg/dL
   1.9 mg/dL
   34 mEq/L
   4.1 mEq/L
   27 mg/dL
   102 mEq/L
   141 mEq/L
   34.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2140-10-11**]  07:15 PM
                             [**2140-10-11**]  10:50 PM
                             [**2140-10-12**]  03:22 AM
   WBC
   7.0
   7.4
   Hct
   32.8
   32.5
   34.5
   Plt
   134
   120
   Cr
   2.0
   1.9
   TropT
   0.01
   0.02
   Glucose
   92
   79
   Other labs: PT / PTT / INR:22.5/29.5/2.2, CK / CKMB /
   Troponin-T:90/3/0.02, ALT / AST:24/38, Alk Phos / T Bili:86/0.3,
   Amylase / Lipase:72/35, Differential-Neuts:70.3 %, Lymph:17.5 %,
   Mono:7.3 %, Eos:4.8 %, Lactic Acid:0.7 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   72 yo M with MMP including CAD, CHF, CRI here with GIB and chest pain.
   .
   1. GI bleed: Hx GI bleeding in the past, recent EGD by GI showed
   erosions in stomach and duodenum c/w NSAID gastropathy (only takes
   ASA), had a normal [**Last Name (un) **] in [**Month (only) 1996**].
   - monitor HCTs q4hrs initially and then less frequently if stable
   - 2 large bore IVs in place
   - IVFs PRN
   - Transfuse for HCT < 30 given ? of active ischemia
   - IV PPI
   - F/u GI recs: no plan to scope emergently, await resolution of chest
   pain
   .
   2. Chest pain:
   - telemetry
   - cards recs: repeat Echo
   - F/U CE's
   - F/U cards recs: plan for TTE tomorrow
   - continue statin,
   - restart b-blocker, ACE-I  tomorrow if stable
   - restart ASA if Hct stable in AM
   .
   3. Systolic heart failure: Currently satting well on 2L
   - Hold lasix and spironolactone overnight and restart in AM if patient
   is stable
   - Continue digoxin for afterload reduction
   - monitor I/O's, daily weights
   .
   4. Afib:
   - continue mexilitine and digoxin  (held sotalol last night)
   - s/p reversal of INR given GIB. Will hold off on further
   anticoagulation for now except for ASA in AM
   .
   5. Chronic renal insufficiency: BL cr 1.6-2. Currently at baseline.
   - avoid nephrotoxins if possible
   - keep MAP >60.
   .
   6. Hyperlipidemia:
   - continue statin
   .
   7. Hypothyroidism:
   - continue levothyroxine
   .
   8. Asthma:
   - continue home meds
   .
   9. Psych:
   - continue meds
   .
   FEN: NPO, replete lytes PRN, IVFs
   .
   PPX: IV PPI [**Hospital1 **], no anticoagulation, boots
   .
   ACCESS: 2 18g IVs in place
   .
   CODE: presumed full
   .
   Communication: Pt, wife [**Doctor First Name 16**] [**Telephone/Fax (1) 5722**])
   .
   DISPO: ICU for now
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control: Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-10-11**] 06:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: Family updated
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-10-11**] 06:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2140-10-13 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2140-10-12**] 10:09 AM
   -          Hct stable @ 34
   -          D/W pt
s cardiologist and pt risk of bleeding on coumadin
   and risk of stroke from AF, decided to discontinue coumadin; also
   discussed possibility of ischemic colitis as etiology of pt
s sxs.
   -          GI: will not rescope now, PPI [**Hospital1 **] and misoprostil
   -          Pt had episode of diaphoresis, ongoing chest pain, CE
   negative
   -          TTE: EF 20-25%, mod to severe AS, moderate MR; compared with
   prior,.
   -          TTE: Increased dilation of the aortic sinus and increased MR
   since prior study.
   -
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-10-12**] 03:51 PM
   Metronidazole - [**2140-10-12**] 08:29 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2140-10-12**] 06:51 PM
   Pantoprazole (Protonix) - [**2140-10-12**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-13**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 75 (75 - 79) bpm
   BP: 105/61(71) {88/28(46) - 114/78(80)} mmHg
   RR: 12 (10 - 26) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
                  Total In:
                                                                    360 mL
                                                                    400 mL
   PO:
                                                                    300 mL
                                                                    400 mL
   TF:
   IVF:
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    300 mL
   Urine:
                                                                  1,550 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,190 mL
                                                                    100 mL
   Respiratory support
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: NAD, comfortable
   HEENT: PERRL
   Neck: No JVD
   Lungs: CTAB, no crackles
   Heart: s1s2 RRR, +SEM
   Abd:+BS, obese, soft, nontender to palpation of the lower quadrants, no
   rebound or guarding
   Ext: No edema, warm/well-perfused
   Neuro: Nonfocal
   Labs / Radiology
   120 K/uL
   11.5 g/dL
   79 mg/dL
   1.9 mg/dL
   34 mEq/L
   4.1 mEq/L
   27 mg/dL
   102 mEq/L
   141 mEq/L
   35.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2140-10-11**]  07:15 PM
                             [**2140-10-11**]  10:50 PM
                             [**2140-10-12**]  03:22 AM
                             [**2140-10-12**]  10:54 AM
                             [**2140-10-12**]  06:47 PM
                             [**2140-10-12**]  10:26 PM
   WBC
   7.0
   7.4
   Hct
   32.8
   32.5
   34.5
   34.5
   35.4
   Plt
   134
   120
   Cr
   2.0
   1.9
   TropT
   0.01
   0.02
   0.01
   Glucose
   92
   79
   Other labs: PT / PTT / INR:22.5/29.5/2.2, CK / CKMB /
   Troponin-T:102/4/0.01, ALT / AST:24/38, Alk Phos / T Bili:86/0.3,
   Amylase / Lipase:72/35, Differential-Neuts:70.3 %, Lymph:17.5 %,
   Mono:7.3 %, Eos:4.8 %, Lactic Acid:0.7 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   CXR: None today
   Micro: None
   Assessment and Plan
   72 yo M with MMP including CAD, CHF, CRI here with GIB and chest pain.
   .
   1. GI bleed/Abd pain: Hx GI bleeding in the past, recent EGD by GI
   showed erosions in stomach and duodenum c/w NSAID gastropathy (only
   takes ASA), had a normal [**Last Name (un) **] in [**Month (only) 1996**]. Also consider ischemic colitis,
   particularly given risk factors (low CO, diuretics).  A CTA of the
   abdomen in [**Month (only) 1996**] when he had a similar episode revealed no acute
   abnormality but did show narrowing at the proximal aspect of the celiac
   axis but normal SMA/[**Female First Name (un) **]. Pt has had no further BMs since admission but
   has been NPO.
   - Hct stabilized ~ 34
   - 2 large bore IVs in place
   - IV PPI: switch to PO PPI
   - GI recs: no plan to scope emergently, recent scope done and Hct
   stable
   - Will ask GI about possible ischemic colitis given clinical picture
   - Continue CTX/flagyl while pt still having pain and ischemic colitis
   is in differential, given risk of gut bacteria translocation
   - Advance to clears
   - No imaging at this time given overall reassuring and improving
   clinical picture
   - Held diuretics: concern is restarting could exacerbate possible
   ischemic colitis, continue to hold for now given pt still having sxs
   and does not seem fluid overloaded currently
   - D/W pt
s cardiologist, plan is to d/c coumadin given risk/benefit
   .
   2. Chest pain: Pain has been ongoing intermittently, similar to past
   pain. Unlikely to be active cardiac ischemia given time course, pain
   not typical for aortic dissection.
   - telemetry
   - repeat Echo yesterday
 no significant change from prior
   - CE: negative thus far
   - continue statin
   - restart b-blocker, ACE-I  tomorrow if stable
   - restart ASA if Hct stable in AM
   - poor candidate for aortic valve replacement
   .
   3. Systolic heart failure: Currently satting well on 2L, has not
   received diuretics x 2 days.  Echo yesterday similar to prior, with EF
   20-25%, mod to severe AS, moderate MR; compared with prior,. Increased
   dilation of the aortic sinus and increased MR since prior study.
   - Hold lasix and spironolactone
   - Continue digoxin for afterload reduction
   - monitor I/O's, daily weights
   .
   4. Afib:
   - continue mexilitine and digoxin  and sotolol
   - s/p reversal of INR given GIB, plan per his cardiologist is to d/c
   coumadin
   .
   5. Chronic renal insufficiency: BL creat 1.6-2. Currently at baseline.
   - avoid nephrotoxins if possible
   - keep MAP >60.
   .
   6. Hyperlipidemia:
   - continue statin
   .
   7. Hypothyroidism:
   - continue levothyroxine
   .
   8. Asthma:
   - continue home meds
   .
   9. Psych:
   - continue meds
   .
   FEN: NPO, replete lytes PRN, IVFs
   .
   PPX:  PPI [**Hospital1 **], no anticoagulation, boots
   .
   ACCESS: 2 18g IVs in place
   .
   Communication: Pt, wife [**Doctor First Name 16**] [**Telephone/Fax (1) 5722**])
   ICU Care
   Nutrition:
   Comments: Clears
   Glycemic Control: Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-10-11**] 06:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: Family updated
   Code status: Full code
   Disposition: Call out to the medical floor